US07655666B2
2-Amino-4-fluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester
To a solution of 2-amino-4-fluoromethyl-5-iodo-benzoic acid methyl ester (650 mg, 2.10 mmol) in dioxane (30 mL) were added 1-isopropyl-5-tributylstannanyl-1H-pyrazole (1.01 g, 1.2 equiv) and Pd(dppf)2Cl2 (172 mg, 0.1 equiv) and the resulting mixture was stirred at 90° C. for 18 h. 0.1 equiv of catalyst was added and the mixture was stirred at 90° C. for 24 h. The solvent was removed in vacuo to afford a dark oil. The crude product was purified by flash chromatography (silica gel, EtOAc/hexanes (0:100 to 35:75)) to provide a light yellow solid (243 mg, 40%) (ES-MS: m/z 292.3 [M+H]+, rt 5.31 min).

reactant | 2-amino-4-fluoromethyl-5-iodo-benzoic acid methyl ester | 2.10 mmol, 650 mg | COC(C1=C(C=C(C(=C1)I)CF)N)=O | C9H9FINO2
reactant | 1-isopropyl-5-tributylstannanyl-1H-pyrazole | 1.01 g, 1.2 equiv | C(C)(C)N1N=CC=C1[Sn](CCCC)(CCCC)CCCC
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(dppf)2Cl2 | 172 mg, 0.1 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 2-Amino-4-fluoromethyl-5-(2-isopropyl-2H-pyrazol-3-yl)-benzoic acid methyl ester | 243 mg, 40% | COC(C1=C(C=C(C(=C1)C=1N(N=CC1)C(C)C)CF)N)=O | C15H18FN3O2
